US07820673B2
85b) tert-butyl(1R)-2,2-dimethyl-1-((4-((5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)methyl)-1-piperidinyl)carbonyl)propylcarbamate
To a solution of Boc-D-tert-leucine (0.69 g), HOBt (0.69 g) and WSC (0.86 g) in acetonitrile (20 ml) was added a solution of 5-methyl-2-(4-piperidinylmethyl)-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one dihydrochloride (0.91 g) as described above, DBU (0.6 ml) and triethylamine (0.61 ml) in acetonitrile (20 ml), and mixed for 15 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in dichloromethane. The dichloromethane solution was washed with an aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified with basic silica gel column (ethyl acetate/methanol=10/1) to obtain the title compound as colorless powder (1.2 g, 66%).

reactant | Boc-D-tert-leucine | 0.69 g | C(=O)(OC(C)(C)C)N[C@H](C(C)(C)C)C(=O)O | C11H21NO4
reactant | HOBt | 0.69 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.86 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-methyl-2-(4-piperidinylmethyl)-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one dihydrochloride | 0.91 g | Cl.Cl.CC1=NC=C2N1C(N(C2)CC2CCNCC2)=O
reactant | DBU | 0.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl(1R)-2,2-dimethyl-1-((4-((5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)methyl)-1-piperidinyl)carbonyl)propylcarbamate | 1.2 g, 66% | CC([C@H](C(=O)N1CCC(CC1)CN1C(N2C(C1)=CN=C2C)=O)NC(OC(C)(C)C)=O)(C)C | C23H37N5O4
